US04940795
60% oily sodium hydride (272 mg), placed in a flask, was treated with n-hexane in an argon gas atmosphere to wash off the oil component, and the remaining hexane was distilled off under reduced pressure. Dimethyl sulfoxide (8 ml) was added to the residue, the mixture was heated at 60° to 70° C. for about one hour, the faint-green solution thus obtained was ice-cooled, and 2.43 g methyltriphenylphosphonium bromide was added. Heating the mixture at about 40° C. put the solid into solution, giving a yellowish-red solution. It was cooled to about 30° C., 590 mg 2,8-dimethyl-1-oxa-8-azaspiro[4,5]decan-3-one was added, and the mixture was stirred at room temperature for about two hours. It was then poured into 50 ml ice water, the resulting mixture was extracted with chloroform, and the extract was washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure from the dried solution, the residue was purified by silica gel column chromatography by using, as eluent, a mixed solvent of chloroform/methanol (10:1 by volume), giving 320 mg of 2,8-dimethyl-3-methylene-1-oxa-8-azaspiro[4.5]decane as oil. It was dissolved in ether, and ethanolic hydrogen chloride was added to the solution, giving the corresponding hydrochloride as crystals.

reactant | sodium hydride | 272 mg | [H-].[Na+]
reactant | 2,8-dimethyl-1-oxa-8-azaspiro[4,5]decan-3-one | 590 mg | CC1OC2(CC1=O)CCN(CC2)C | C10H17NO2
reactant | n-hexane | CCCCCC | C6H14
catalyst | methyltriphenylphosphonium bromide | 2.43 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,8-dimethyl-3-methylene-1-oxa-8-azaspiro[4.5]decane | 320 mg | CC1OC2(CC1=C)CCN(CC2)C | C11H19NO
